US20010016627A1
In a mixed solution of 75 parts of dodecyl methacrylate and 25 parts of methyl methacrylate there was dissolved 0.1 part of 2,2′-azobis(2,4-dimethylvaleronitrile). To this there was then added a mixed solution containing 2.0 parts of sodium dodecylbenzenesulfonate and 300 parts of distilled water, and after stirring for 4 minutes at 10,000 rpm with a homomixer, it was passed twice through a homogenizer at 30 MPa pressure to obtain a stable dodecyl methacrylate/methyl methacrylate preliminary dispersion. This was charged into a separable flask equipped with a stirring blade, condenser, thermocouple and nitrogen inlet, the internal temperature was raised to 80° C. under a nitrogen stream and the mixture was stirred for 3 hours for radical polymerization, to obtain a dodecyl methacrylate/methyl methacrylate copolymer particle dispersion (hereunder referred to as “B-4”).

reactant | sodium dodecylbenzenesulfonate | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Na]
reactant | water | O | H2O
reactant | dodecyl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
solvent | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
solvent | 2,2′-azobis(2,4-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
product | dodecyl methacrylate methyl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCC.C(C(=C)C)(=O)OC | InChI=1S/C16H30O2.C5H8O2/c1-4-5-6-7-8-9-10-11-12-13-14-18-16(17)15(2)3;1-4(2)5(6)7-3/h2,4-14H2,1,3H3;1H2,2-3H3
